US07288537B2
5-Cyclobutyl-2-methyl-2H-pyrazol-3-ylamine
This is synthesized in an analogous manner to 5-ethyl-2-methyl-2H-pyrazol-3-ylamine except using 3-cyclobutyl-3-oxopropionitrile instead of 3-oxo-pentanenitrile.

reactant | 5-ethyl-2-methyl-2H-pyrazol-3-ylamine | C(C)C=1C=C(N(N1)C)N | C6H11N3
reactant | 3-cyclobutyl-3-oxopropionitrile | C1(CCC1)C(CC#N)=O | C7H9NO
product | 5-Cyclobutyl-2-methyl-2H-pyrazol-3-ylamine | C1(CCC1)C=1C=C(N(N1)C)N | C8H13N3
